data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1135,"CCC#[N:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3573,"CC(C[O:1][CH2:2][OH2+:3])C1CCCCC1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9171,"CC[C:1](C)(C#N)[H:2].CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2987,"CC1CC(C)[CH:1]=[C:2]1C.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5446,"CC(=O)O[Si-:1](C)(C)(C)[O+:2]=C1CCCCC1|((1, 2), 2)"
train,pmechdb_split_0,0,7047,"CC=C[CH2:1][Br:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4916,"CC(=O)OC[C:1](=[CH:2]CC(C1=CC=C(F)C=C1)(C1=[N+](CC2=CC=CC=C2)C(C)=C(CCO)S1)[O:3][H:4])[O-:5].CC[NH+](CC)CC.[Cl-]|(5, 1);((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1426,"CN(C)C(=O)C=C(CC1=CC=CC=C1)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6140,"CO[C:1](C)=[OH+:2].C[NH2:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5069,"CCCCC[CH2:1][O:2][P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC.COCOC1=C(C(=O)[O-:4])C(C(=O)OC)=C(C2=CC(OC)=C(OC)C=C2)C2=C1C=C(OC)C(OC)=C2OC|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,2453,"CC(=O)OC1=CC(=O)CC(C)(C)C1.CC[N+](CC)(CC)[K-:1][C:2]#N|((1, 2), 2)"
train,pmechdb_split_0,0,6969,"N#CC(C(N)C#N)=[NH:1].N#[C:2][H:3].[C-]#N|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2658,"CS(=O)(=O)[O-:1].C[Si:2](C)(C)F|(1, 2)"
train,pmechdb_split_0,0,1303,"CC(=O)C1=CC=CC2=C1C=C[CH+:1][C:2]2(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,611,"C[Si-:1](C)(C)(Cl)[CH2:2][C+:3]=C1CC(C2=CC=CC=C2)CC1[O][Zn-]([Cl])[Cl]|((1, 2), 3)"
train,pmechdb_split_0,0,3416,"C1COCCO1.CC(C)CC(CC1CCCCC1)[O+:1](S([O-])(Cl)Cl)[H:2].CC(C)CC(CC1CCCCC1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8066,"CCCO[C:1](CC)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4899,"CCC(O)[O:1]C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7699,"CCC1C=CC=CC(O[Si:1](C)(C)C(C)(C)C)C(CC=CC#C[Si](C(C)C)(C(C)C)C(C)C)O1.CCCC[N+](CCCC)(CCCC)CCCC.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,3170,"CC1CCCC[C+:1]2C=CC=C[C:2]12[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6366,"CC(=O)[CH:1]([H:2])[C:3](C)=[NH+:4]C1=C2N=CNC2=CC=C1.CC(=O)[O-:5].O|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1001,"CC1=C2C3=CC(OC(O)[O+:1](C)[H:2])=CC=C3N(C)C2=C(C)C2=C1C=NC=C2.O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3156,"CCCCCCN1CCC23C4=C(C=CC(OC)=C4O)CC1C2CC(OC)[C:1](=[OH+:2])[CH:3]3[H:4].CCCCCC[N:5]1CCC23CC(=O)C(OC)CC2C1CC1=C3C(O)=C(OC)C=C1.CS(=O)(=O)[O-]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3813,"C=C(Br)CC1(CCC[C:1](O)=[C:2]2N3CCCC3=N[N:3]2C2=C(F)C(F)=C(F)C(F)=C2F)C=C[C:4](=[O:5])[CH:6]=[CH:7]1.CC[NH+](CC)CC.F[B-](F)(F)F|(3, 2);((2, 1), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3462,"C[As+](C)(C)[CH-:1][CH2:2][OH+:3][Na]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9523,"CC[NH+](CC)CC.O=[N+]([O-])C1=C(O[P:1](Cl)(Cl)([O-:2])[Cl:3])N=C2C=CC=CC2=C1O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1043,"CC(C)(C)[O+:1](C)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5424,"CC[OH:1].[CH2:2]=[CH:3][C:4]#[NH+:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4821,"CC(=O)O.CCCCOCC1OC2C(=CC1OCCCC)CC1=C(C=CC(C)=C1)[O+:1]2[H:2].CCCC[O-:3].FB(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5897,"CC1(C)OC2C(O1)[CH+:1][CH:2]=[CH:3]C2OC[C:4]1=[C:5](Br)C2=C(C=C1)OCO2|((5, 4), 3);((3, 2), 1)"
train,pmechdb_split_0,0,6333,"Br[C-:1](Br)Br.CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5272,"C[C:1]1=[CH:2]OC=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,544,"C[CH:1]=[CH:2]C1=CC=CC=C1.[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5366,"CC=CC1CCCC(C)C1[N:1](C)C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9875,"C1=CC=C([CH:1]([CH2:2][H:3])[Br:4])C=C1.CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,7572,"CCN[C:1](=[CH:2]CSCC)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7154,"CCOC(=O)CC(=O)NN[C:1]([NH:2][H:3])=[S:4].CC[O:5][Na]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8968,"O[C+:1]1C(Br)=CC(Br)=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3417,"C1CC[NH:1]CC1.CC1=CC=C(C(N2CCCCC2)[C:2](C#N)([H:3])[C:4](CC(C)(C)C)=[OH+:5])C=C1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,395,"O=S(=O)(O)[O-:1].O=[N+]([O-])C1=CC2=C(C=C1)C=C[CH+:2][C:3]2([N+](=O)[O-])[H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,9731,"O[C:1]1=[CH:2]C=CC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3709,"CC=C[CH:1](C)[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,2534,"CCO[C:1](CCC(=O)N(C)C)=[O:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3686,"N#[N+:1][CH2:2][C:3]1([O-:4])CC2C=C[CH:5]1C2|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,797,"CCC(C)(C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7495,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.COC(C)(C)[O+:2](CCO)[H:3]|(1, 3);((3, 2), 2)"
